US07504403B2
3-[6-Oxo-1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl -1,3,4,6-tetrahydro-2H-pyrimido[1,2-a]pyrimidin-3-yl]-propionic acid:
A solution of 3-[6-oxo-1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl-1,3,4,6-tetrahydro-2H-pyrimido[1,2-a]pyrimidin-3-yl]-propionic acid ethyl ester (240 mg, 0.46 mmol), 10% aqueous lithium hydroxide (0.2 mL), and tetrahydrofuran (5 mL) was heated to 50° C. Reaction partitioned between dichloromethane (50 mL) and 5% sodium dihydrogenphosphate. Organic dried over magnesium sulfate, then concentrated to a white solid under vacuum. M+1=497.

reactant | 3-[6-oxo-1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl-1,3,4,6-tetrahydro-2H-pyrimido[1,2-a]pyrimidin-3-yl]-propionic acid ethyl ester | 0.46 mmol, 240 mg | C(C)OC(CCC1CN(C=2N(C1)C(C=C(N2)C2=CC=CC=C2)=O)C2=NC(=NC=C2)NCCC2=CC=CC=C2)=O | C30H32N6O3
reactant | lithium hydroxide | 0.2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[6-Oxo-1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl -1,3,4,6-tetrahydro-2H-pyrimido[1,2-a]pyrimidin-3-yl]-propionic acid | O=C1C=C(N=C2N1CC(CN2C2=NC(=NC=C2)NCCC2=CC=CC=C2)CCC(=O)O)C2=CC=CC=C2 | C28H28N6O3
